US06218393B1
(iv) 5,6,7,8-tetrahydroquinoline-3-carboxylic acid
A mixture of 3-quinolinecarboxylic acid (1.73 g, 10.0 mmol) in trifluoroacetic acid (20 ml) with platinum dioxide (200 mg) was shaken in a Parr vessel at 10-15 psi. After 90 minutes the reaction mixture was filtered and the solvent removed in vacuo to yield an oil. The oil was added dropwise onto diethyl ether yielding a white solid which was collected by filtration and then recrystallised from ethyl acetate/hexane to yield the title compound as a white solid (770 mg).

reactant | 3-quinolinecarboxylic acid | 10.0 mmol, 1.73 g | N1=CC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum dioxide | 200 mg | [Pt](=O)=O
product | 5,6,7,8-tetrahydroquinoline-3-carboxylic acid | 770 mg | N1=CC(=CC=2CCCCC12)C(=O)O | C10H11NO2
